US05459274
Preparation of 3-chloro-N-propyl-N-4-pyridinyl-1H-indol-1-amine hydrochloride
To a 4 g sample of product, 3-chloro-N-propyl-N-4-pyridinyl-1H-indol-1-amine, dissolved in anhydrous ether (60 mL) in a 125 mL-round bottom flask equipped with a mechanical stirrer, thermometer and dropping funnel, was added slowly an ethereal solution saturated with hydrogen chloride (6 mL) at room temperature, under a nitrogen atmosphere, with stirring. After about 0.5 hrs at room temperature, the precipitate was collected, washed with anhydrous ether (15 mL) and dried to yield 3.95 g (87.6%) of product.

reactant | 3-chloro-N-propyl-N-4-pyridinyl-1H-indol-1-amine | ClC1=CN(C2=CC=CC=C12)N(C1=CC=NC=C1)CCC | C16H16ClN3
reactant | hydrogen chloride | 6 mL | Cl | ClH
solvent | ether | 60 mL | CCOCC | C4H10O
product | 3-chloro-N-propyl-N-4-pyridinyl-1H-indol-1-amine hydrochloride | 3.95 g, 87.6% | Cl.ClC1=CN(C2=CC=CC=C12)N(C1=CC=NC=C1)CCC | InChI=1S/C16H16ClN3.ClH/c1-2-11-19(13-7-9-18-10-8-13)20-12-15(17)14-5-3-4-6-16(14)20;/h3-10,12H,2,11H2,1H3;1H
